US07202363B2
N-(4-{4-amino-7-[3-(dimethylamino)phenyl]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide
A mixture of 1-Methyl-1H-indole-2-carboxylic acid [4-(4-amino-7-iodo-thieno[3,2-c]pyridin-3-yl)-2-methoxy-phenyl]-amide (0.100 g, 0.18 mmol) in 1,2-dimethoxyethane (3 mL) and water (1.5 mL) was reacted with 3-(dimethylamino)phenylboronic acid (0.045 g, 0.27 mmol), sodium carbonate (0.06 g, 0.54 mmol) and tetrakis triphenylphosphine palladium (0) (0.017 g, 0.01 mmol) at reflux for two hours. The solvent was removed in vacuo and the residue was purified by preparative RP-HPLC (Hypersil-HS 100 A, C18, 8 μm, 100 Å, 25 cm; 5% acetonitrile—0.1M ammonium acetate 5–100% acetonitrile—0.1M ammonium acetate over 25 min, 21 ml/min). The acetonitrile was removed in vacuo and the aqueous mixture was lyophilized to provide the title compound (20 mg) as an off-white powder. 1H NMR (DMSO-d6, 400 MHz) δ 9.52 (s, 1H), 8.01 (t, 1H), 7.94 (s, 1H), 7.72 (d, 1H), 7.58 (m, 2H), 7.34 (m, 3H), 7.23 (s, 1H), 7.16 (t, 1H), 7.10 (d, 1H), 6.97 (s, 1H), 6.95 (d, 1H), 6.79 (d, 1H), 5.56 (bs, 2H), 4.04 (s, 3H), 3.92 (s, 3H), 2.97 (s, 6H); LCMS (Conditions b), Rt=6.22 min, MS m/e: 548 (M+H)+.

reactant | 1-Methyl-1H-indole-2-carboxylic acid [4-(4-amino-7-iodo-thieno[3,2-c]pyridin-3-yl)-2-methoxy-phenyl]-amide | 0.18 mmol, 0.100 g | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)I | C24H19IN4O2S
reactant | 3-(dimethylamino)phenylboronic acid | 0.27 mmol, 0.045 g | CN(C=1C=C(C=CC1)B(O)O)C | C8H12BNO2
reactant | sodium carbonate | 0.54 mmol, 0.06 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 3 mL | COCCOC | C4H10O2
solvent | water | 1.5 mL | O | H2O
product | N-(4-{4-amino-7-[3-(dimethylamino)phenyl]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide | 20 mg | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C2=CC(=CC=C2)N(C)C | C32H29N5O2S
